US06448242B1
4-(4-Benzyl-1-piperazinyl)-1-nitrobenzene (2.6 g; 8.9 mmol) synthesized by the above process and zinc powder (3.2 g; 48 mmol) were added to a solution of calcium chloride (665 mg; 6.0 mmol) in water-ethanol-acetic acid (12 ml-55 ml-1.2 ml), and the mixture was stirred under reflux for 15 minutes in a bath controlled at 110° C. Insoluble substances were removed from the reaction mixture by suction filtration through Celite, and the filtrate was concentrated under reduced pressure. A saturated aqueous solution of sodium hydrogencarbonate was added to the resultant concentrated residue to conduct extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The thus-obtained crude crystals were recrystallized from benzene-n-hexane to obtain 2.3 g (yield: 96%) of 4-(4-benzyl-1-piperazinyl)aniline as pale brown needles (melting point: 137-138° C.).

reactant | 4-(4-Benzyl-1-piperazinyl)-1-nitrobenzene | 8.9 mmol, 2.6 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O2
reactant | calcium chloride | 6.0 mmol, 665 mg | [Cl-].[Ca+2].[Cl-]
solvent | water ethanol acetic acid | 2 ml | O.C(C)O.C(C)(=O)O
catalyst | zinc | 48 mmol, 3.2 g | [Zn] | Zn
product | 4-(4-benzyl-1-piperazinyl)aniline | 2.3 g, yield: 96% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(N)C=C1 | C17H21N3
